US08754053B2
0.27 g of 4-[5-(3,5-Dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid ethyl ester (VIIIa) was stirred in a mixture of 5 ml of methanol, 5 ml of THF and 1 ml of water. To this solution 0.2 g KOH was added and the mixture was stirred for 5 days at ambient temperature. The solvents were then evaporated, the residue was diluted with water and acidified with 1N HCl. The solid that precipitated was isolated by filtration and dried to give 0.240 g (95%,) of 4-[5-(3,5-Dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid (IIa) as a pale solid. 1H-NMR (CDCl3, δ in ppm): 8.05 (d, 1H), 7.26-7.44 (m, 5H), 5.46 (s, 1H), 3.00 (s, 3H), 2.65 (s, 3H).

reactant | 4-[5-(3,5-Dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid ethyl ester | 0.27 g | C(C)OC(C1=C(C=C(C=C1)C=1N(OC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)C)=O | C21H18Cl2F3NO3
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | water | 1 ml | O | H2O
reactant | KOH | [OH-].[K+]
solvent | methanol | 5 ml | CO | CH4O
product | 4-[5-(3,5-Dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid | 0.240 g, 95% | ClC=1C=C(C=C(C1)Cl)C1(C=C(N(O1)C)C1=CC(=C(C(=O)O)C=C1)C)C(F)(F)F | C19H14Cl2F3NO3
